Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Nafcillin / Lisinopril
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ woman with a history of coronary artery disease and 
CABG surgery at age ___, heart failure with preserved LVEF on 
home oxygen at 2L, DM, CKD, and chronic anemia who presents with 
worsening shortness of breath and left-sided chest pain. 
Shortness of breath has worsened since ___ ___ last night with 
increasing oxygen requirement up to 3 L. Chest pain started at 1 
a.m. constant, nonradiating.
  
In the ED, initial vitals were 97.4 71 115/55 18 97% 3L Nasal 
Cannula 
Labs  significant for a HCT of 19.9. Troponin of 0.29.  
EKG: showed TWI I, AVL, V5-6, no change from prior. Chest x-ray 
was c/w fluid overload. She was treated with Aspirin, SL nitro x 
1, morphine x 4mg. She was transfused 1 unit of pRBCs. 
  
On arrival to the floor, her chest pain has improved, currently 
___ down from ___. She also feels less short of breath. The 
patient weights 224.9lbs which is about 15 pounds above her 
reported dry weight of 210 pounds.  

 
Past Medical History:
-CAD s/p CABG ___ (LIMA to LAD, SVG to PDA, OM1, OM2, D1) 
Cath ___ all SVG occluded, stent to Lcx,Om1. Cath ___ ISR, 
brachytherapy. ___ stents to OM1, LCx. ___ OM occluded.
-DMII c/b retinopathy, neuropathy
-HTN
-HL
-dCHF EF 55%
-Chronic renal failure
-Obesity
-charcot ankle on left with osteomyelitis ___
-Intestinal Dieulafoy's (Hemorrhagic) Lesion
 
Social History:
___
Family History:
She reports her mother developed lung cancer, she was a smoker. 
She had a grandmother and an aunt who had breast cancer, 
grandmother was diagnosed with breast cancer in her ___ and her 
aunt was in her ___. There is no other family history of cancer.
 
Physical Exam:
Physical Exam on admission:
VS: 140/71, 72, 16, 92% 3L
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate. 
Husband at bedside.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple  
CARDIAC: RR, normal S1, S2. ___ systolic murmur. No thrills, 
lifts. No S3 or S4.  
LUNGS: Decreased breath sounds at bases bilaterally. No 
accessory muscle use. 
ABDOMEN: Soft, Protuberant Abdomen. Nontender. No HSM. Abd aorta 
not enlarged by palpation. No abdominial bruits.  
EXTREMITIES: Left foot swollen but at baseline per patient. 
Trace edema to ankle. Open wound on left leg. 
RECTAL: Guiac negative in the ED 
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+ 

Physical Exam on discharge:
VS: 98.8/98.8, 126-173/69-76, 18, 92% 3L (Weight 97.2 kg)
GENERAL: NAD. Oriented x3. Mood, affect appropriate. Husband at 
bedside.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple  
CARDIAC: RR, normal S1, S2. ___ systolic murmur. No thrills, 
lifts. No S3 or S4.  
LUNGS: Decreased breath sounds at bases bilaterally, no crackles 
noted today. No accessory muscle use. 
ABDOMEN: Soft, Protuberant Abdomen. Nontender. No HSM. Abd aorta 
not enlarged by palpation. No abdominial bruits.  
EXTREMITIES: Left foot swollen but at baseline per patient. 
Trace edema to ankle. Open wound on left leg. 
RECTAL: Guiac negative in the ED 
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
Labs on admission:

___ 06:10PM BLOOD WBC-9.9 RBC-2.77* Hgb-8.1* Hct-23.9* 
MCV-87 MCH-29.1 MCHC-33.7 RDW-16.5* Plt ___
___ 06:25AM BLOOD Glucose-237* UreaN-102* Creat-3.8* Na-138 
K-5.1 Cl-96 HCO3-29 AnGap-18
___ 06:25AM BLOOD LD(LDH)-205 CK(CPK)-77
___ 06:10PM BLOOD ALT-16 AST-16 LD(LDH)-210 CK(CPK)-90 
AlkPhos-117* TotBili-0.6
___ 07:34AM BLOOD CK(CPK)-73
___ 06:25AM BLOOD CK-MB-4 ___
___ 06:25AM BLOOD cTropnT-0.29*
___ 10:32AM BLOOD cTropnT-0.28*
___ 06:10PM BLOOD CK-MB-5 cTropnT-0.36*
___ 07:34AM BLOOD CK-MB-3 cTropnT-0.32*
___ 07:34AM BLOOD TotProt-6.9 Calcium-8.8 Phos-5.4* Mg-2.6
___ 06:25AM BLOOD calTIBC-241* VitB12-1375* Folate-GREATER 
TH Hapto-363* Ferritn-374* TRF-185*
___ 07:34AM BLOOD C3-176 C4-49*
___ 07:34AM BLOOD HCV Ab-NEGATIVE

CXR ___:
IMPRESSION: Mild edema. Left basilar opacity could be due to 
edema, but 
infection, atelectasis or infarction are also possible. If there 
is any 
clinical concern for pulmonary embolus, CT of the chest should 
be obtained 

Labs on discharge:

___ 07:45AM BLOOD WBC-10.4 RBC-3.28* Hgb-9.6* Hct-27.5* 
MCV-84 MCH-29.3 MCHC-35.0 RDW-15.0 Plt ___
___ 07:20AM BLOOD Glucose-112* UreaN-96* Creat-3.7* Na-143 
K-4.4 Cl-99 HCO3-33* AnGap-15
___ 07:20AM BLOOD Calcium-9.4 Phos-5.7* Mg-2.___SSESSMENT AND PLAN: ___ woman with a history of 
coronary artery disease and CABG surgery at age ___, heart 
failure with preserved LVEF on home oxygen at 2L, DM, CKD, and 
chronic anemia who presents with worsening shortness of breath 
and left-sided chest pain.  
  
# Demand Ischemia:  Chest pain likely represented demand 
ischemia in the setting of anemia and volume overload. Chest 
pain quickly dissipated and her breathing improved once pt was 
given 3 units of pRBCs for her anemia and diuresed (-7 L over 
the hopsitalization) with a lasix drip.  Troponins were mildly 
elevated above baseline but in the setting of worsened renal 
function and anemia, this bump was most likely ___ demand 
ischemia and not ACS. We continue her home home meds of ASA, 
atorvastatin and labetalol.
  
# Acute on Chronic Diastolic Heart Failure: Pt was about 15 
pounds above dry weight on admission.  She diuresed well with a 
lasix gtt and home metolazone dose and was down 5.2 kg on 
dischaerge.  We did switch her back to her home diuretic regimen 
of torsemide 100 mg po and metolazone 2.5 mg daily the day 
before discharge.   

# Hypertension:  Pt remained hypertension during much of the 
admission with SBP's as high as the 170's.  We did incrwased her 
home labetalol dose to 400 mg bid with minimal improvement.  A 
main barrier to further BP control was that she remained 
orthostatic (80's/50's when standing) although was aymptomatic.  
We believe that the orthostasis may be related to her 
longstanding diabetes, as well as possible over-diuresis.  We 
sent the pt home on her normal blood pressure regimen, with 
instructions on managing her orthostasis.
  
# Anemia: Hct on admission was 19.  Pt was given 3 untis of 
pRBC's and had an appropriate hct increase.  She reamined stable 
in the ___ range for the rest of the hospitalization.  She has 
required multiple transfusions in the past. Prior hematology 
workup suggested it was secondary to AOCD/renal disease.  Iron 
studies on this admission also suggest that it is secondary to 
AOCD. She was previously on Procrit but this was stopped due to 
concern for exacerbating heart failure.  I spoke with Dr. ___ 
___ possibly restarting procit with a modest goal of ___ in 
an attempt to prevent further episodes of demand ischemia. 
  
# Acute on Chronic Kidney Disease: Cr remained in 3.6 -3.9 range 
during admission.  FEurea of 31 which was consistent with 
pre-renal etiology, likely from poor perfusion to kidneys from 
worsening CHF. She also has nephrotic range proteinuria which 
was also present in ___. This is most likely diabetic 
nephrosclerosis.  She will follow-up with her nephrologist Dr. 
___.
  
# Diabetes mellitus: Blood glucose well-controlled on Lantus 
from 20 qHS and humalog sliding scale.

 
Medications on Admission:
Amlodpine 10mg qPM
Atorvastatin 80mg qPM
Gabapentin 300mg TID
Hydromorphone 2mg BID PRN
Lantus 18u SC qhs
Humalog Sliding scale 
Isosorbide mononitrate ER 60mg daily
Labetatlol 200mg BID
Lorazepam 1mg PRN
Losartan 25mg daily
Metoclopramide 5mg PO QID
Metolazone 2.5mg on ___
Omeprazole 20mg PO BID
Sertraline 100mg PO Daily
Torsemide 100mg PO Daily
Aspirin 325mg PO Daily
Ferrous Gluconate 324mg PO daily
Magnesium 400mg PO daily
Centrum Silver once daily

 
Discharge Medications:
1. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
3. gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q24H (every 
24 hours).  
4. insulin lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous at bedtime: please take 18 units at bedtime.  
5. Humalog 100 unit/mL Solution Sig: One (1)  Subcutaneous three 
times a day: sliding scale.  
6. isosorbide mononitrate 60 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
7. labetalol 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for anxiety.  
9. metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
10. losartan 25 mg Tablet Sig: One (1) Tablet PO once a day.  
11. metolazone 2.5 mg Tablet Sig: One (1) Tablet PO QMOWEFR: 
Take on ___ and ___.  
12. omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO twice a day.  
13. sertraline 100 mg Tablet Sig: One (1) Tablet PO once a day.  

14. torsemide 100 mg Tablet Sig: One (1) Tablet PO once a day.  
15. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

16. ferrous gluconate 325 mg (37.5 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. magnesium oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
18. Centrum Silver     Tablet Sig: One (1) Tablet PO once a day. 
 
19. Dilaudid 2 mg Tablet Sig: ___ Tablet PO twice a day as 
needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CHF exacerbation
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you during your hospitalization 
here at ___.  You were admitted 
with worsening shortness of breath and chest pain.  You were 
also found to have severe anemia and around 15 extra pounds of 
fluid that had accumulated on your body.  We beleive that the 
extra fluid as well as your anemia likely caused you to have 
chest pain and a small amount of damage to your heart muscle.
   We gave you three units of blood to help correct the enemia 
and put you on a lasix drip that was successful in removing a 
large amount of fluid from your body.
   Your chest pain and shortness improved dramatically with the 
above therapy. Your blood pressure goes down significantly when 
you stand up, but you do not seem to have any symptomatic 
change. Please be careful when standing up, and give yourself 
time to equilibrate before walking. If you are dizzy while 
standing, please talk to your cardiologist about stopping one of 
your blood pressure medications.

You are now safe for discharge home.

MEDICATION CHANGES:
- Because of your worsening kidney function, please take 
gabapentin once a day instead of three times a day.
- Because of your worsening kidney function, you may be more 
susceptible to sedation from your Dilaudid (hydromorphone). 
Please be cautious when taking Dilaudid for pain in your foot.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___